US07470705B2
Step 2. Preparation of (2R,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carbonyl chloride
Add trichloromethyl chloroformate (0.36 mL, 3.02 mmol) to a solution of (2R,4S)-(3,5-Bis-trifluoromethyl-benzyl)-(2-ethyl-6-trifluoromethyl-1,2,3,4-tetrahydro-[1,5]naphthyridin-4-yl)-(2-methyl-2H-tetrazol-5-yl)-amine (1.67 g, 3.02 mmol) and triethylamine (0.84 mL, 6.04 mmol) in toluene (19 mL). Stir the mixture at room temperature under nitrogen for 3 h, then add more triethylamine (0.50 mL, 3.6 mmol) and trichloromethyl chloroformate (0.21 mL, 1.8 mmol). Stir the mixture overnight. Evaporate the solvent and purify the residue by silica gel chromatography (elution with hexane/ethyl acetate) to afford the title compound (1.83 g, 98%). MS (ES+): 616 (M+H).

reactant | trichloromethyl chloroformate | 3.02 mmol, 0.36 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | (2R,4S)-(3,5-Bis-trifluoromethyl-benzyl)-(2-ethyl-6-trifluoromethyl-1,2,3,4-tetrahydro-[1,5]naphthyridin-4-yl)-(2-methyl-2H-tetrazol-5-yl)-amine | 3.02 mmol, 1.67 g | FC(C=1C=C(CN(C=2N=NN(N2)C)[C@H]2C[C@H](NC3=CC=C(N=C23)C(F)(F)F)CC)C=C(C1)C(F)(F)F)(F)F | C22H20F9N7
reactant | triethylamine | 6.04 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 3.6 mmol, 0.50 mL | C(C)N(CC)CC | C6H15N
reactant | trichloromethyl chloroformate | 1.8 mmol, 0.21 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | 19 mL | C1(=CC=CC=C1)C | C7H8
product | (2R,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carbonyl chloride | 1.83 g, 98% | FC(C=1C=C(CN([C@H]2C[C@H](N(C3=CC=C(N=C23)C(F)(F)F)C(=O)Cl)CC)C=2N=NN(N2)C)C=C(C1)C(F)(F)F)(F)F | C23H19ClF9N7O
